US09107916B2
C. 2-[4-[2-(dimethylamino)ethyl]-5-[(4-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
To a solution of 2-[1-(4-cyanopyridin-2-yl)-5-[(4-fluorophenyl)methoxy]pyrazol-4-yl]ethyl methanesulfonate (42 mg, 0.1 mmol) and dimethylamine hydrochloride (41 mg, 0.5 mmol) in ACN (3 mL) was added K2CO3 (276 mg, 2 mmol) and KI (62 mg, 0.4 mmol) at rt. The reaction mixture was heated to 80° C. and stirred overnight. Filtered, solvent removed and purified by prep-HPLC to give the title compound (16 mg, 44%). 1H NMR (400 MHz, CDCl3): δ 2.45 (6H, s), 2.56-2.61 (2H, m), 2.69-2.73 (2H, m), 5.16 (2H, s), 7.03-7.07 (2H, m), 7.35-7.41 (3H, m), 7.53 (1H, s), 8.03 (1H, s), 8.64 (1H, d, J=4.8 Hz). [M+H] Calc'd for C20H20FN5O, 366. Found, 366.

reactant | 2-[1-(4-cyanopyridin-2-yl)-5-[(4-fluorophenyl)methoxy]pyrazol-4-yl]ethyl methanesulfonate | 0.1 mmol, 42 mg | CS(=O)(=O)OCCC=1C=NN(C1OCC1=CC=C(C=C1)F)C1=NC=CC(=C1)C#N | C19H17FN4O4S
reactant | dimethylamine hydrochloride | 0.5 mmol, 41 mg | Cl.CNC
reactant | K2CO3 | 2 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 3 mL | C(C)#N | C2H3N
product | 2-[4-[2-(dimethylamino)ethyl]-5-[(4-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | 16 mg, 44% | CN(CCC=1C=NN(C1OCC1=CC=C(C=C1)F)C1=NC=CC(=C1)C#N)C | C20H20FN5O
